US07560471B2
Over a solution of 6.5 g (0.025 mol) of 1-(2-methoxyethyl)-3-piperidin-4-yl-1H-indole in 90 ml of dichloromethane and 3.9 ml (0.026 mol) of triethylamine, a solution of 7.2 g (0.026 mol) of 5-bromomethyl-2-methoxy-benzoic acid ethyl ester in 15 ml of dichloromethane was added. The crude mixture was stirred at room temperature for 24 hours. After standard work-up and purification by chromatography over silica gel, 9.9 g (70% of yield) of 2-methoxy-5-{4-[1-(2-methoxyethyl)-1H-indol-3-yl]piperidin-1-ylmethy}-benzoic acid ethyl ester were obtained.

reactant | 1-(2-methoxyethyl)-3-piperidin-4-yl-1H-indole | 0.025 mol, 6.5 g | COCCN1C=C(C2=CC=CC=C12)C1CCNCC1 | C16H22N2O
reactant | triethylamine | 0.026 mol, 3.9 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromomethyl-2-methoxy-benzoic acid ethyl ester | 0.026 mol, 7.2 g | C(C)OC(C1=C(C=CC(=C1)CBr)OC)=O | C11H13BrO3
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-methoxy-5-{4-[1-(2-methoxyethyl)-1H-indol-3-yl]piperidin-1-ylmethy}-benzoic acid ethyl ester | 9.9 g, 70% | C(C)OC(C1=C(C=CC(=C1)CN1CCC(CC1)C1=CN(C2=CC=CC=C12)CCOC)OC)=O | C27H34N2O4
